US07160876B2
2,2,2-trifluoro-N-(2-iodophenyl)acetamide
2-Iodo-phenylamine (Aldrich, 1.09 g, 5 mmol) was treated with trifluoroacetic anhydride (Aldrich, 1.26 g, 6 mmol) and 2,6-di-tert-butyl-4-methyl-pyridine (Aldrich, 1.23 g, 6 mmol) in CH2Cl2 (10 mL) at room temperature overnight. It was then quenched with with water (5 mL) and extracted with EtOAc (3×10 mL). The extracts were combined and washed with brine (5 mL). The organic solution was concentrated and the title compound was purified by flash chromatography (SiO2, Hexanes/EtOAc, 80:20, Rf. 0.50) as a solid (1.1 g, yield, 70%). 1H NMR (300 MHz, CD3OD) δ 7.07–7.12 (m, 1H), 7.39–7.47 (m, 2H), 7.95 (dd, J=7.8, 1.3 Hz, 1H) ppm. MS (DCl): m/z 316 (M+H)+.

reactant | 2-Iodo-phenylamine | 5 mmol, 1.09 g | IC1=C(C=CC=C1)N | C6H6IN
reactant | trifluoroacetic anhydride | 6 mmol, 1.26 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2,6-di-tert-butyl-4-methyl-pyridine | 6 mmol, 1.23 g | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-N-(2-iodophenyl)acetamide | FC(C(=O)NC1=C(C=CC=C1)I)(F)F | C8H5F3INO
